US08492560B2
To a solution of 6-methoxy-7-((piperidin-4-yl)methoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one hydrochloride (0.88 g, 2 mmol) and triethylamine (0.3 ml, 2.1 mmol) in methanol (10 ml) and methylene chloride (10 ml) was added potassium carbonate (280 mg, 2 mmol) and methyl vinyl sulfone (0.4 ml, 2.1 mmol). After stirring for 2 hours at ambient temperature, the volatiles were removed under vacuum. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4) and evaporated to give 6-methoxy-7-41-(2-methylsulphonylethyl)piperidin-4-yl)methoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (0.55 g, 54%).

reactant | 6-methoxy-7-((piperidin-4-yl)methoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one hydrochloride | 2 mmol, 0.88 g | Cl.COC=1C=C2C(N(C=NC2=CC1OCC1CCNCC1)COC(C(C)(C)C)=O)=O
reactant | triethylamine | 2.1 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 2 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl vinyl sulfone | 2.1 mmol, 0.4 ml | C(=C)S(=O)(=O)C | C3H6O2S
solvent | methanol | 10 ml | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 0.55 g, 54% | C(C(C)(C)C)(=O)OCN1C=NC2=CC=CC=C2C1=O | C14H16N2O3
